US04410536
9-(3-Dimethylaminopropyl)-1-methyl-7,8,9,10-tetrahydrothieno[3,2-e]pyrido[4,3-b]indole
The compound is formed analogously to that described in Example 5, from 5-hydrazino-3-methylbenzothiophene hydrochloride and 8.5 ml of 1-(3-dimethylaminopropyl)-4-piperidone. Melting point: 184° C.

reactant | 5-hydrazino-3-methylbenzothiophene hydrochloride | Cl.N(N)C=1C=CC2=C(C(=CS2)C)C1
reactant | 1-(3-dimethylaminopropyl)-4-piperidone | 8.5 ml | CN(CCCN1CCC(CC1)=O)C | C10H20N2O
product | 9-(3-Dimethylaminopropyl)-1-methyl-7,8,9,10-tetrahydrothieno[3,2-e]pyrido[4,3-b]indole | CN(CCCN1CC2=C(NC3=CC=C4C(=C23)C(=CS4)C)CC1)C | C19H25N3S
